2133-12-12 07:44:00 Physician Resident Progress Note
Chief Complaint: Afib with RVR
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2133-12-11**] 02:32 PM
 ULTRASOUND - At [**2133-12-11**] 03:27 PM
 EKG - At [**2133-12-11**] 08:31 PM
   - Esmolol gtt titrated up to 150 for a time, rates in low 100s;
   overnight with borderline BPs with systolics in 80s, though mentating
   well and making good urine.  Esmolol brought down to 50/hr, HRs in
   110s, MAPs ~60.
   - TTE with EF down to 50%, no focal WMA, mild biatrial enlargement, 1+
   MR with mod MAC.
   - PTT repeatedly supratherapeutic, titrating dose down.
   - LENIs negative for DVT.
   - UA with small ketones (after hydration), gap closed and bicarb
   normalized. Osmolar gap 6.
   - UA also with 42 WBCs though 6 epis.  Cipro started.
   - BNP 719.
   - Hct drop 43->32 in AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Esmolol - 50 mcg/Kg/min
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-12-12**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 105 (98 - 139) bpm
   BP: 98/46(58) {75/46(58) - 138/70(112)} mmHg
   RR: 18 (12 - 29) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                  3,433 mL
                                                                  1,939 mL
   PO:
             TF:
   IVF:
                                                                  2,093 mL
                                                                  1,459 mL
   Blood products:
   Total out:
                                                                    270 mL
                                                                    270 mL
   Urine:
                                                                    270 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,163 mL
                                                                  1,669 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.44/39/151/26/2
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious (slightly). Sitting up in chair.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal) tachy and irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+ (L leg grossly enlarged compared to R,
   unchanged).
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, alert, appropriate
   Labs / Radiology
   106 K/uL
   11.1 g/dL
   110 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.3 mEq/L
   10 mg/dL
   102 mEq/L
   138 mEq/L
   32.2 %
   3.6 K/uL
        [image002.jpg]
                            [**2133-12-11**]  02:03 PM
                            [**2133-12-11**]  05:40 PM
                            [**2133-12-12**]  03:27 AM
   WBC
   3.6
   Hct
   32.2
   Plt
   106
   Cr
   0.7
   0.8
   TCO2
   27
   Glucose
   130
   110
   Other labs: PT / PTT / INR:15.2/150.0/1.3, ALT / AST:36/45, Alk Phos /
   T Bili:84/, Amylase / Lipase:/15, Lactic Acid:1.4 mmol/L, Albumin:3.4
   g/dL, Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   A/P: 67 y.o. female with alcohol cirrhosis, still consuming alcohol who
   presents with Afib with RVR.
   .
   # Afib with RVR.  Unknown when went back into Afib as patient
   asymptomatic.  Med noncompliant x several days (not taking her beta
   blocker).  EF now 50% (from 60% on last TTE).  No evidence of R heart
   strain or VTE to suggest PE as trigger.
   - Aim for rate control now; unclear how long has been in fib.  Esmolol
   gtt right now, goal HR < 100 while maintaining SBP >90.  CV if
   unstable.  Start home dose of atenolol, titrate down on esmolol.
   Titrate up atenolol as tolerated.
   - Consider second [**Doctor Last Name **] since still difficult to rate control (and
   being limited by overnight hypotension).  Would favor digoxin over
   amiodarone, as unclear how long has been in fib since asymptomatic, and
   would not want to pharm cardiovert at this point (anticoag only ~ 12
   hours)
   - Consider diuresis if BP tolerates, ?related to atrial stretch from
   decompensated heart failure (not extremely volume overloaded on exam).
   - Continue heparin gtt, start ASA ?coumadin (though patient with very
   frequent falls at home and history of INR increasing to ~30.
   .
   # O2 requirement. Weaning down O2.  ABG with decent PaO2 (better than
   suggested by sats).  Report of desatting to 80s in ED, but also more
   lethargic at the time likely [**2-21**] valium.  No focal infiltrate on CXR.
   - Monitor mental status, though may need benzos for withdrawal.
   - Consider diuresis.
   .
   # Anion gap metabolic acidosis.  Initial AG 25 and bicarb 19; delta
   delta favoring both both metabolic acidosis and metabolic alkalosis.
   [**Month (only) 60**] have alkalosis due to dehydration. Lactate 2.6 (though liver
   failure patient), now <2.  Also had ketones in urine, resolved.  No
   osmolar gap.  Likely some alcoholic/starvation ketosis.  Now resolved.
   .
   -          Continue to follow lytes.
   .
   # Borderline hypotension.  Overnight with systolics in 80s, MAPs
   slightly < 60 at times.  Mentating well and making adequate urine.
   Appears euvolemic to slightly hypervolemic.  Had BPs in 140s even with
   tachycardia to 180s in ED; likely an effect of the esmolol +/- valium.
   -          Tolerate SBP >85.
   -          Titrate esmolol as above.
   -          Hold antihypertensives.
   -          Consider digoxin if hypotension continues to limit rate
   control.
   .
   # EtOH withdrawal.  Long history of abuse as per admit note.
   Interested on quitting, though notes limited resources.
   - SW consult
   - Diazepam Q2H prn CIWA >10 to start.
   .
   #  Abdominal Fullness: Obese abdomen without clear ascites.
   - bowel regimen
   - monitor LFTs.
   - Consider send stool for c.diff since diarrhea, though no other e/o
   this.
   .
   # Hypertension.  Hold all antihypertensives to allow uptitration of
   beta blocker.
   .
   # Depression.  Continue lexapro, wellbutrin, seroquel.
   .
   # Cirrhosis/hepatitis.  Liver team aware.  No evidence of decompensated
   cirrhosis as above.  Will follow.
   .
   # ?UTI.  46 WBCs on initial UA but also epis, second with fewer.
   Started cipro, culture pending.
   .
   # Anemia/thrombocytopenia.  Likely EtOH and liver disease related.
   -          check folate, B12, anemia workup.
   -          Repeat hct later today given significant hct drop, though
   likely dilutional.  Guaiac stools.
   ICU Care
   Nutrition:
   Comments: regular
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2133-12-11**] 12:53 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Critical Care
   Patient seen. Present for key portions of history and exam. Agree with
   Dr. [**Last Name (STitle) **]
s assessment and plan. HR now better controlled but still
   requiring aggressive beta blockade and BP remains borderline, although
   urine output is better than one would expect.  From TTE agree that it
   seems likely she is again manifesting cardiac dysfxn secondary to high
   EtOH intake.  We are ruling out other causes of elevated HR. With echo
   showing no marked change in RV VTE unlikely.  Agree with holding on
   pressors unless UO, mentation, widening gap suggest poor perfusion.
   Time spent 35
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 115**] [**Last Name (NamePattern1) 116**], MD
   on:[**2133-12-12**] 15:42 ------

2133-12-13 07:56:00 Physician Resident Progress Note
Chief Complaint: afib, rvr
   24 Hour Events:
   PTT therapeutic
   Hct stable  32.2 --> 35.2 --> 34.5
   Weaned off esmolol drip, atenolol started at home dose
   Received valium for withdrawal
   B12, folate wnl
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-12-13**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.4
   HR: 108 (100 - 119) bpm
   BP: 106/76(83) {82/45(56) - 122/76(86)} mmHg
   RR: 25 (9 - 30) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                  3,227 mL
                                                                    135 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                  2,567 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  1,275 mL
                                                                    400 mL
   Urine:
                                                                  1,225 mL
                                                                    400 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,952 mL
                                                                   -265 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Oriented (to): p, p, t,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   108 K/uL
   11.6 g/dL
   116 mg/dL
   0.8 mg/dL
   23 mEq/L
   6.5 mEq/L
   7 mg/dL
   108 mEq/L
   139 mEq/L
   34.5 %
   4.1 K/uL
        [image002.jpg]
                            [**2133-12-11**]  02:03 PM
                            [**2133-12-11**]  05:40 PM
                            [**2133-12-12**]  03:27 AM
                            [**2133-12-12**]  05:21 PM
                            [**2133-12-13**]  05:15 AM
   WBC
   3.6
   4.7
   4.1
   Hct
   32.2
   35.2
   34.5
   Plt
   106
   106
   108
   Cr
   0.7
   0.8
   0.8
   TCO2
   27
   Glucose
   130
   110
   116
   Other labs: PT / PTT / INR:13.9/61.0/1.2, ALT / AST:36/45, Alk Phos / T
   Bili:84/, Amylase / Lipase:/15, Lactic Acid:1.4 mmol/L, Albumin:3.4
   g/dL, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   67 y.o. female with alcohol cirrhosis, still consuming alcohol who
   presents with Afib with RVR.
   .
   # Afib with RVR.  Unknown when went back into Afib as patient
   asymptomatic.  Med noncompliant x several days (not taking her beta
   blocker).  EF now 50% (from 60% on last TTE).  No evidence of R heart
   strain or VTE to suggest PE as trigger.
   - Aim for rate control now; unclear how long has been in fib.  Esmolol
   gtt right now, goal HR < 100 while maintaining SBP >90.  CV if
   unstable.  Start home dose of atenolol, titrate down on esmolol.
   Titrate up atenolol as tolerated.
   - Consider second [**Doctor Last Name **] since still difficult to rate control (and
   being limited by overnight hypotension).  Would favor digoxin over
   amiodarone, as unclear how long has been in fib since asymptomatic, and
   would not want to pharm cardiovert at this point (anticoag only ~ 12
   hours)
   - Consider diuresis if BP tolerates, ?related to atrial stretch from
   decompensated heart failure (not extremely volume overloaded on exam).
   - Continue heparin gtt, start ASA ?coumadin (though patient with very
   frequent falls at home and history of INR increasing to ~30.
   .
   # O2 requirement. Weaning down O2.  ABG with decent PaO2 (better than
   suggested by sats).  Report of desatting to 80s in ED, but also more
   lethargic at the time likely [**2-21**] valium.  No focal infiltrate on CXR.
   - Monitor mental status, though may need benzos for withdrawal.
   - Consider diuresis.
   .
   # Anion gap metabolic acidosis.  Initial AG 25 and bicarb 19; delta
   delta favoring both both metabolic acidosis and metabolic alkalosis.
   [**Month (only) 60**] have alkalosis due to dehydration. Lactate 2.6 (though liver
   failure patient), now <2.  Also had ketones in urine, resolved.  No
   osmolar gap.  Likely some alcoholic/starvation ketosis.  Now resolved.
   .
   -          Continue to follow lytes.
   .
   # Borderline hypotension.  Overnight with systolics in 80s, MAPs
   slightly < 60 at times.  Mentating well and making adequate urine.
   Appears euvolemic to slightly hypervolemic.  Had BPs in 140s even with
   tachycardia to 180s in ED; likely an effect of the esmolol +/- valium.
   -          Tolerate SBP >85.
   -          Titrate esmolol as above.
   -          Hold antihypertensives.
   -          Consider digoxin if hypotension continues to limit rate
   control.
   .
   # EtOH withdrawal.  Long history of abuse as per admit note.
   Interested on quitting, though notes limited resources.
   - SW consult
   - Diazepam Q2H prn CIWA >10 to start.
   .
   #  Abdominal Fullness: Obese abdomen without clear ascites.
   - bowel regimen
   - monitor LFTs.
   - Consider send stool for c.diff since diarrhea, though no other e/o
   this.
   .
   # Hypertension.  Hold all antihypertensives to allow uptitration of
   beta blocker.
   .
   # Depression.  Continue lexapro, wellbutrin, seroquel.
   .
   # Cirrhosis/hepatitis.  Liver team aware.  No evidence of decompensated
   cirrhosis as above.  Will follow.
   .
   # ?UTI.  46 WBCs on initial UA but also epis, second with fewer.
   Started cipro, culture pending.
   .
   # Anemia/thrombocytopenia.  Likely EtOH and liver disease related.
   -          check folate, B12, anemia workup.
   -          Repeat hct later today given significant hct drop, though
   likely dilutional.  Guaiac stools.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2133-12-12**] 09:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2133-12-14 07:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-12-14**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 110 (104 - 120) bpm
   BP: 99/74(80) {98/50(63) - 128/89(99)} mmHg
   RR: 14 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                    408 mL
                                                                    134 mL
   PO:
             TF:
   IVF:
                                                                    408 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                    340 mL
   Urine:
                                                                  1,490 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,082 mL
                                                                   -206 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   11.3 g/dL
   110 K/uL
   118 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.7 mEq/L
   6 mg/dL
   107 mEq/L
   142 mEq/L
   34.3 %
   4.1 K/uL
        [image002.jpg]
                            [**2133-12-11**]  02:03 PM
                            [**2133-12-11**]  05:40 PM
                            [**2133-12-12**]  03:27 AM
                            [**2133-12-12**]  05:21 PM
                            [**2133-12-13**]  05:15 AM
                            [**2133-12-14**]  04:24 AM
   WBC
   3.6
   4.7
   4.1
   4.1
   Hct
   32.2
   35.2
   34.5
   34.3
   Plt
   106
   106
   108
   110
   Cr
   0.7
   0.8
   0.8
   0.8
   TCO2
   27
   Glucose
   130
   110
   116
   118
   Other labs: PT / PTT / INR:13.4/52.3/1.1, ALT / AST:40/45, Alk Phos / T
   Bili:93/0.8, Amylase / Lipase:/15, Lactic Acid:1.4 mmol/L, Albumin:3.5
   g/dL, LDH:398 IU/L, Ca++:8.9 mg/dL, Mg++:1.6 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   67 yo female with hx of heavy EtOH abuse and EtOH related cirrhosis, hx
   of antral erosions with GI bleed admitted with EtOh withdrawl and A-fib
   with RVR
   A-fib with RVR: had a top normal size atria in [**2132**] now with A-fib with
   RVR (prev normal ECG in sinus [**2133-8-4**]) and a report of one lifetime
   episode.  She has been drinking heavily for many weeks with poor
   nutritional intake now in Afib with RVR likely at least in part
   exacerbated by EtOH abuse and withdrawl and electrolyte imbalance. We
   can rate control for now with dilt gtt and work to optimize
   electrolytes. It is possible her continued EtOH abuse has worsened her
   cardiac function and it is worthwhile to repeat a TTE, especially given
   her hx of what is presumed to be EtOH induced CM with EF as low as
   30%.  Will also check a TSH.
   - Close monitoring of electrolytes
   - Check BNP, TTE
   - Closely monitor electrolyes
   - Esmolol drip for rate control given concern for heart failure.
   EtOH withdrawl: very high risk for withdrawl and DT. Will need to
   control withdrawl symptoms with CIWA protocol and us eof valium and
   haldol as needed. Will replete thiamine, B12 and folate (Banana bag)
   - CIWA with lorazepam and haldol
   Hypoxemia: in the setting of  of Afib with RVR, some suggestion of
   asymmetric lower ext swelling (left) and hx of breast CA putting her at
   increased risk for PE. We can start with bilateral LENI. She is
   anticoagulated for now with the indication of paroxysmal A-fib.
   Metabolic acidosis: with high anion gap component  partially [**2-21**]
   lactate (possibly from being dry and possibly from underlying liver
   failure) as well as starvation component or alcoholic ketosis (will
   check serum and urine ketones). In addition there is a delta delta gap
   of >2 arguing for the presence of a concurrent  metabolikc alkalosis.
   We will work to hydrate her over the course of the next 24 hrs while
   keeping in mind she may have some element of decompensated heart
   failure.  Could check Urine Cl to confirm the presence of Cl responsive
   alkalosis.
   - IV hydration with LR or D5/NS, following Cl to prevent hyperchloremic
   metabolic acidosis
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2133-12-12**] 09:05 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2133-12-14 07:47:00 Physician Resident Progress Note
Chief Complaint: Afib with RVR
   24 Hour Events:
   PTT therapeutic
   Hct stable
   HR controlled
   Atenolol increased to 75mg qd
   Valium for withdrawal - no requirements overnight
   Asking to go out to regular floor.
   Denies anxiety, nervousness.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-12-14**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 110 (104 - 120) bpm
   BP: 99/74(80) {98/50(63) - 128/89(99)} mmHg
   RR: 14 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                    408 mL
                                                                    136 mL
   PO:
             TF:
   IVF:
                                                                    408 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                    340 mL
   Urine:
                                                                  1,490 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,082 mL
                                                                   -204 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General: Sitting up in chair, NAD, not appearing anxious.
   HEENT: sclera anicteric. MMM
   Chest: CTA bilaterally
   Heart: irreg irreg, no murmurs appreciated.
   Abdomen: soft, obese, NT/ND +BS
   Extrem: 1+ edema bilat, unchanged.
   Neuro: Oriented x 3, alert and appropriate.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   110 K/uL
   11.3 g/dL
   118 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.7 mEq/L
   6 mg/dL
   107 mEq/L
   142 mEq/L
   34.3 %
   4.1 K/uL
        [image002.jpg]
                            [**2133-12-11**]  02:03 PM
                            [**2133-12-11**]  05:40 PM
                            [**2133-12-12**]  03:27 AM
                            [**2133-12-12**]  05:21 PM
                            [**2133-12-13**]  05:15 AM
                            [**2133-12-14**]  04:24 AM
   WBC
   3.6
   4.7
   4.1
   4.1
   Hct
   32.2
   35.2
   34.5
   34.3
   Plt
   106
   106
   108
   110
   Cr
   0.7
   0.8
   0.8
   0.8
   TCO2
   27
   Glucose
   130
   110
   116
   118
   Other labs: PT / PTT / INR:13.4/52.3/1.1, ALT / AST:40/45, Alk Phos / T
   Bili:93/0.8, Amylase / Lipase:/15, Lactic Acid:1.4 mmol/L, Albumin:3.5
   g/dL, LDH:398 IU/L, Ca++:8.9 mg/dL, Mg++:1.6 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   67 y.o. female with alcohol cirrhosis, still consuming alcohol who
   presents with Afib with RVR.
   .
   # Afib with RVR
 unknown etiology, med noncompliant x several days
   (not taking her beta blocker), EF 50% from 60%.  No e/o  R heart strain
   or VTE to suggest PE as trigger.
   - rate control: increase atenolol to 100 mg daily.
   - Consider diuresis later if BP tolerates
   - will stop heparin gtt, continue ASA
 past hx suggests not
   appropriate for coumadin [**2-21**] falls and non-compliance (has had INR > 20
   when on coumadin in the past).
   .
   # EtOH withdrawal.  Long hx abuse as per admit note, valium
   requirements now minimal in past two shifts, per patient report feels
   withdrawal symptoms significantly improved.
   - SW consult
   - Diazepam Q4H prn CIWA >10
   .
   # Depression.  Continue lexapro, wellbutrin, seroquel.
   .
   # Cirrhosis/hepatitis.  Liver team aware.  No evidence of decompensated
   cirrhosis as above.  Will follow.
   .
   # UTI.  46 WBCs on initial UA but also epis, second with fewer.
   Started cipro, culture with E.coli >10^5, also GPCs 10^4-10^5.  Patient
   was asymptomatic.
   - cipro d#1 [**12-12**], uncomplicated to complete course [**12-14**].
   .
   # Anemia/thrombocytopenia.  Likely EtOH and liver disease related.
   - folate, B12 normal
   - trend  hct
   .
   # Anion gap metabolic acidosis.  Initial AG 25 and bicarb 19; delta
   delta favoring both both metabolic acidosis and metabolic alkalosis.
   [**Month (only) 60**] have alkalosis due to dehydration. Lactate 2.6 (though liver
   failure patient), now <2.  Also had ketones in urine, resolved.  No
   osmolar gap.  Likely some alcoholic/starvation ketosis.  Now resolved.
   .
   ICU Care
   Nutrition:
   Comments: regular
   Glycemic Control:
   Lines:
   20 Gauge - [**2133-12-12**] 09:05 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt) change to HSQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor